US07432270B2
(RS) 2-(1H-Benzoimidazol-2-ylaminomethyl)-piperidine-1-carboxylic acid tert butyl ester
(RS)-2-Aminomethyl-piperidine-1-carboxylic acid tert butyl ester (0.25 g) and 2-chlorobenzimidazole (0.15 g) were combined and warmed to 100° C. for 48 hours. After cooling to room temperature the mixture was column chromatographed (silica gel, ethyl acetate/pentane 1:4—ethyl acetate/pentane 1:1 eluant) to give the title compound (0.1 g).

reactant | (RS)-2-Aminomethyl-piperidine-1-carboxylic acid tert butyl ester | 0.25 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CN | C11H22N2O2
reactant | 2-chlorobenzimidazole | 0.15 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
product | (RS) 2-(1H-Benzoimidazol-2-ylaminomethyl)-piperidine-1-carboxylic acid tert butyl ester | 0.1 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CNC1=NC2=C(N1)C=CC=C2 | C18H26N4O2
